US07452880B2
2-Methoxyphenyl magnesium bromide (53.3 mL of 1.75 M solution in THF was cooled to 0° C. 3,5-Difluoronicotinonitrile (5.0 g, 35.6 mmol) was added over 20 minutes to the reaction mixture at 0° C. The reaction was quenched by addition of of 60 mL of 2M H2SO4, and the mixture was allowed to warm to room temperature. The reaction mixture was extracted with 40 mL 50 mL EtOAc, and the aqueous phase was basified by addition 12 mL of 5M NaOH. Tee aqueous phase was then extracted twice with 70 mL of EtOAc, and the combined organic layers were washed with water, and dried (MgSO4). The MgSO4 was removed by filtration and solvent was removed under reduced pressure. The residue was purified by flash chromatography (40 mm×15 cm) with hexanes/EtOAc (0:1 to 4:1) to yield 7.9 g of (3,5-difluoro-pyridin-2-yl)-(2-methoxy-phenyl)-methanone. Mass Spec. M+H=250.

reactant | 2-Methoxyphenyl magnesium bromide | COC1=C(C=CC=C1)[Mg]Br
reactant | 3,5-Difluoronicotinonitrile | 35.6 mmol, 5.0 g | FC1(C#N)CN=CC(=C1)F | C6H4F2N2
reactant | THF | C1CCOC1 | C4H8O
product | (3,5-difluoro-pyridin-2-yl)-(2-methoxy-phenyl)-methanone | 7.9 g | FC=1C(=NC=C(C1)F)C(=O)C1=C(C=CC=C1)OC | C13H9F2NO2
